US09062028B2
Step A. 8-Bromo-2H-benzo[b][1,4]oxazin-3(4H)-one
To a solution of 2-amino-6-bromophenol (1 g, 5.32 mmol) in acetonitrile (10 mL) and water (10 mL) was added sodium bicarbonate (1.028 g, 12.23 mmol). The mixture was cooled to 0° C. and chloroacetyl chloride (0.554 mL, 6.91 mmol) was added dropwise. The reaction was refluxed overnight. After cooling to room temperature, the mixture was diluted with EtOAc, washed with water, dried over anhydrous MgSO4, filtered, and concentrated to afford the title compound (1.14 g, 94% yield) as a dark brown solid. 1H NMR (400 MHz, CDCl3) δ 8.22 (br. s, 1H), 7.23 (dd, J=8.0, 1.4 Hz, 1H), 6.86 (t, J=8.0 Hz, 1H), 6.76 (dd, J=7.9, 1.3 Hz, 1H), 4.74 (s, 2H).

reactant | 2-amino-6-bromophenol | 5.32 mmol, 1 g | NC1=C(C(=CC=C1)Br)O | C6H6BrNO
reactant | sodium bicarbonate | 12.23 mmol, 1.028 g | C([O-])(O)=O.[Na+]
reactant | chloroacetyl chloride | 6.91 mmol, 0.554 mL | ClCC(=O)Cl | C2H2Cl2O
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | water | 10 mL | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 8-Bromo-2H-benzo[b][1,4]oxazin-3(4H)-one | 1.14 g, 94% yield | BrC1=CC=CC2=C1OCC(N2)=O | C8H6BrNO2
